**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Visible Chip LED
* Matchcode:          WL-SMSW SMT Mono-color Side view PLCC LED Watercle
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  1204_155124BS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=867.86E-15
+ N=4.5815
+ RS=10.315
+ IKF=2.2977
+ CJO=0.0000000001075
+ M=0.1
+ VJ=9.99
.ends
******
.subckt  1204_155124GS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=8.0842E-12
+ N=4.9950
+ RS=17.926
+ IKF=999
+ CJO=4.6733E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1204_155124VS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=2.7215E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=4.6733E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1204_155124YS73200  1  2
D1 1 2 led
.MODEL led D
+ IS=3.0978E-9
+ N=4.9950
+ RS=3.0912E-3
+ IKF=999
+ CJO=3.9474E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt 1204_155124BS73200A 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=1.7319E-15
+ N=3.6778
+ RS=5.8388
+ IKF=1.4153E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 1204_155124GS73200A 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.7276
+ RS=6.5920
+ IKF=9.5973E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
********
.subckt 1204_155124RS73200A 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=4.3656E-15
+ N=2.4991
+ RS=1.2502
+ IKF=359.10
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
********
.subckt 1204_155124VS73200A 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=1.8147
+ RS=1.1392
+ IKF=2.2362
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
********
.subckt 1204_155124YS73200A 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=1.8051
+ RS=.53722
+ IKF=10.399
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
********
.subckt 3014_155301BS73100 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301GS73100 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301RS73100 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301VS73100 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301YS73100 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060AS73200 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060BS73200 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060GS73200 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060RS73200 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060SS73200 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060VS73200 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060YS73200 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060AS75300 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9923
+ IKF=31.085E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060BS75300 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060GS75300 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060SS75300 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060RS75300 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060YS75300 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060VS75300 1 2
D1 1 2 smsw
.MODEL smsw D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********
.subckt 1204_155124RS73200 1 2
D1 2 1 smsw
.MODEL smsw D
+ IS=10.000E-21
+ N=1.6578
+ RS=1.0000E-6
+ IKF=223.21E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********































